US03933841
A solution of 83 g of p-nitroaniline in 400 ml of dioxane is added at room temperature, with stirring, to 126 g of 2-chloro-6-nitrobenzoxazole obtained from 43.3 g of 2-chlorobenzoxazole with fuming nitric acid (d. 1.52) in sulphuric acid. The solution is heated to 40°C and stirred at this temperature for a further 19 hours. The solution is diluted with 200 ml of water; it is then cooled and the precipitate separated. The suction-filter residue is dried and dissolved in 500 ml of dimethylformamide. This solution is purified, and diluted with 200 ml of ethanol. The precipitating 6-nitro-2-(4'-nitroanilino)-benzoxazole has the melting point 305° to 310°C.

reactant | p-nitroaniline | 83 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 2-chloro-6-nitrobenzoxazole | 126 g | ClC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-chlorobenzoxazole | 43.3 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
